US07919519B2
In a sealed tube, a mixture of K3PO4 (16 g, 78 mmol), S-Phos (0.64 g, 1.6 mmol), and palladium acetate (0.29 g, 1.3 mmol) in THF (70 mL) was treated with 6-bromopyridin-3-ol (4.50 g, 26 mmol) and β-benzyl-9-BBN (0.5M solution in THF, 103 mL, 52 mmol). The mixture was heated to 80° C. for 18 h and diluted with EtOAc. The organic phase was washed with 2M aqueous NaOH, brine, dried over MgSO4, and concentrated. Purification by flash chromatography using EtOAc/hexanes gave 6-benzylpyridin-3-ol. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.66 (br. s, 1H), 8.03 (t, J=1.8 Hz, 1H), 7.13-7.30 (m, 4H), 7.07 (d, J=1.9 Hz, 2H), 3.95 (s, 2H). MS (ESI) m/z: Calculated; 185.1 Observed: 186.1 (M++1).

reactant | K3PO4 | 78 mmol, 16 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 1.6 mmol, 0.64 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | 6-bromopyridin-3-ol | 26 mmol, 4.50 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | β-benzyl-9-BBN | 52 mmol, 0.5M, 103 mL | B1(C2CCCC1CCC2)CC3=CC=CC=C3 | C15H21B
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 1.3 mmol, 0.29 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-benzylpyridin-3-ol | C(C1=CC=CC=C1)C1=CC=C(C=N1)O | C12H11NO
